US04749705
(1) 6,7-Dimethoxy quinazoline-2,4-dione
21 g of 2-Amino-4,5-dimethoxy benzoic acid was dissolved in 40 ml of tetrahydrofuran and 40 ml of water. To this solution 10 ml of conc. hydrochloric acid and 11.6 g of potassium cyanide were added. It was left to stand overnight and 50 g of sodium hydroxide was added. After stirring for 2 hours, the resulting precipitate was isolated by filtration. The precipitate was dissolved in 1000 ml of water and acidified with 50% sulfuric acid. The resulting crystal was isolated by filtration and 13.0 g of the desired compound was obtained. m.p. 320° C. (decomp).

reactant | 2-Amino-4,5-dimethoxy benzoic acid | 21 g | NC1=C(C(=O)O)C=C(C(=C1)OC)OC | C9H11NO4
reactant | hydrochloric acid | 10 ml | Cl | ClH
reactant | potassium cyanide | 11.6 g | [C-]#N.[K+]
reactant | sodium hydroxide | 50 g | [OH-].[Na+]
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | water | 40 ml | O | H2O
solvent | water | 1000 ml | O | H2O
product | 6,7-Dimethoxy quinazoline-2,4-dione | 13.0 g | COC=1C=C2C(NC(NC2=CC1OC)=O)=O | C10H10N2O4
